US04082751
A solution of diethyl ethoxymethylenemalonate (8.4 g., 0.0388 mole) in ethanol (20 ml.) was added dropwise to a cooled (ice-water) stirred mixture of 2,4-dimethoxybenzamidine (7.0 g., 0.0388 mole) in ethanol (50 ml.) containing sodium (0.89 g., 0.0388 g-atom). The mixture was heated under reflux for two hours. The cooled mixture was poured into ice-water and acidified with dilute hydrochloric acid. The precipitate was recrystallized from 95% ethanol to give ethyl 1,6-dihydro-6-oxo-2-(2,4-dimethoxyphenyl)pyrimidine-5 -carboxylate (9.0 g., 63.5% yield), m.p. 190°-192°.

reactant | diethyl ethoxymethylenemalonate | 0.0388 mole, 8.4 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 2,4-dimethoxybenzamidine | 0.0388 mole, 7.0 g | COC1=C(C(=N)N)C=CC(=C1)OC | C9H12N2O2
reactant | sodium | 0.89 g | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 1,6-dihydro-6-oxo-2-(2,4-dimethoxyphenyl)pyrimidine-5 -carboxylate | 9.0 g, 63.5% yield | O=C1C(=CN=C(N1)C1=C(C=C(C=C1)OC)OC)C(=O)OCC | C15H16N2O5
